US07384939B2
A mixture of 5-cyano-4-(4-fluoro-2-methylphenyl)-2-(1,1-dioxo-thiomorpholin-4-yl)pyridine (14.80 g, 42.85 mmol), 15 mL of toluene, and 15 mL (27.6 g, 281 mmol) of concentrated sulfuric acid was heated in a 500-mL flask at 70° C. for 12 hours. The mixture was cooled and quenched with 150 mL cold H2O. A solution of 22.8 g (570 mmol) of sodium hydroxide in 200 mL of H2O was added dropwise at 25–30° C. over 15 minutes. The precipitate was filtered, washed with H2O, and dried to afford 15.68 g (100.7%) of 4-(4-fluoro-2-methylphenyl)-6-(1,1-dioxo-thiomorpholin-4-yl)pyridine-3-carboxamide as a colorless solid (2 wt % toluene remains).

reactant | 5-cyano-4-(4-fluoro-2-methylphenyl)-2-(1,1-dioxo-thiomorpholin-4-yl)pyridine | 42.85 mmol, 14.80 g | C(#N)C=1C(=CC(=NC1)N1CCS(CC1)(=O)=O)C1=C(C=C(C=C1)F)C | C17H16FN3O2S
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 281 mmol, 15 mL, 27.6 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 570 mmol, 22.8 g | [OH-].[Na+]
solvent | H2O | 200 mL | O | H2O
product | 4-(4-fluoro-2-methylphenyl)-6-(1,1-dioxo-thiomorpholin-4-yl)pyridine-3-carboxamide | 15.68 g, 100.7% | FC1=CC(=C(C=C1)C1=C(C=NC(=C1)N1CCS(CC1)(=O)=O)C(=O)N)C | C17H18FN3O3S
